US06472393B1
Propane-1-sulfonic acid [2-(4-cyano-phenylamino)-2-(4,5-diethoxy-2-hydroxy-phenyl)-ethyl]-amide (100 mg, 0.223 mmoles) was dissolved in dimethylformamide (1.5 ml) and treated with solid potassium bicarbonate (22 mg, 0.223 mmoles) followed by ethyl bromoacetate (0.37 ml, 0.223 mmoles). The reaction was stirred under N2 for 67 hours. Thin-layer chromatography showed presence of a new product with a higher Rf. The reaction was quenched in water and extracted with ethyl acetate. The ethyl acetate extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo. The residue was submitted to flash chromatography (ethyl acetate:methylene chloride 1:9) to yield 78 mg of {2-[1-(4-cyano-phenylamino)-2-(propane-1-sulfonylamino)-ethyl]4,5-diethoxy-phenoxy}-acetic ethyl ester. 1HNMR (CHCl3): 7.35 (d, 2H), 6.81 (s, 1H), 6.57 (d, 2H), 6.43 (s, 1H), 4.81 (t, 1H), 4.68 (ABq, 2H), 4.56 (t, 1H), 4.26 (q, 2H), 4.05 (q, 2H), 3.95 (m, 2H), 3.54 (t, 2H), 2.98 (m, 2H), 1.80 (m, 2H), 1.42 (t, 3H), 1.32 (t, 6H), 1.02 (t, 3H). MS (M+H): 534.

reactant | Propane-1-sulfonic acid [2-(4-cyano-phenylamino)-2-(4,5-diethoxy-2-hydroxy-phenyl)-ethyl]-amide | 0.223 mmoles, 100 mg | C(#N)C1=CC=C(C=C1)NC(CNS(=O)(=O)CCC)C1=C(C=C(C(=C1)OCC)OCC)O | C22H29N3O5S
reactant | potassium bicarbonate | 0.223 mmoles, 22 mg | C([O-])(O)=O.[K+]
reactant | ethyl bromoacetate | 0.223 mmoles, 0.37 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | {2-[1-(4-cyano-phenylamino)-2-(propane-1-sulfonylamino)-ethyl]4,5-diethoxy-phenoxy}-acetic ethyl ester | 78 mg | C(C)OC(COC1=C(C=C(C(=C1)OCC)OCC)C(CNS(=O)(=O)CCC)NC1=CC=C(C=C1)C#N)=O | C26H35N3O7S
